US07612212B2
Prepared by the same method as described in example 3 except that 2-chloro-4-iodoaniline was used in place of 2-chloro-4-bromoaniline in step 1 and (R)-tert-butoxycarbonylamino-(4-cyclopropylmethoxy-phenyl)-acetic acid was used in place of (R)-tert-butoxycarbonylamino-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetic acid in step 2. (R)-tert-butoxycarbonylamino-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetic acid was prepared by a similar method as described for the preparation of (R)-tert-butoxycarbonylamino-{4-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-acetic acid in example 48 except that cyclopropylmethyl bromide was used in place of 2-(2-bromo-ethoxy)-tetrahydropyran.

reactant | 2-chloro-4-iodoaniline | ClC1=C(N)C=CC(=C1)I | C6H5ClIN
reactant | (R)-tert-butoxycarbonylamino-(4-cyclopropylmethoxy-phenyl)-acetic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)OCC1CC1 | C17H23NO5
reactant | (R)-tert-butoxycarbonylamino-{4-[2-(tetrahydro-pyran-2-yloxy)-ethoxy]-phenyl}-acetic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)OCCOC1OCCCC1 | C20H29NO7
reactant | cyclopropylmethyl bromide | C1(CC1)CBr | C4H7Br
product | (R)-tert-butoxycarbonylamino-[4-(2-tert-butoxy-ethoxy)-phenyl]-acetic acid | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)C1=CC=C(C=C1)OCCOC(C)(C)C | C19H29NO6
